US06242443B1
3-Ethylamino-6,7-difluoro-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 2-amino-4,5-difluorobenzenesulfonamide and ethyl isothiocyanate, and following a procedure analogous to the one described in Example 4a, N-(2-amino-4,5-difluorobenzenesulfonyl)-N′-ethylthiourea was prepared. The crude compound was used without further purification in a cyclisation step analogous to the one described in Example 4b to give the title compound; m.p. 246-252° C.

reactant | 2-amino-4,5-difluorobenzenesulfonamide | NC1=C(C=C(C(=C1)F)F)S(=O)(=O)N | C6H6F2N2O2S
reactant | ethyl isothiocyanate | C(C)N=C=S | C3H5NS
reactant | N-(2-amino-4,5-difluorobenzenesulfonyl)-N′-ethylthiourea | NC1=C(C=C(C(=C1)F)F)S(=O)(=O)NC(=S)NCC | C9H11F2N3O2S2
product | 3-Ethylamino-6,7-difluoro-4H-1,2,4-benzothiadiazine 1,1-dioxide | C(C)NC1=NS(C2=C(N1)C=C(C(=C2)F)F)(=O)=O | C9H9F2N3O2S
